US04975451
A stirred mixture of 1.64 grams (0.068 mole) of magnesium turnings in 200 mL of methanol was warmed to reflux, and a solution of 3.0 grams (0.0068 mole) of 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene was added dropwise. Upon completion of addition the reaction mixture was heated at reflux for one hour. The reaction mixture was cooled and stirred with ethyl acetate and aqueous 3N hydrochloric acid. The mixture was filtered, the organic layer was separated from the filtrate, and it was washed in turn with aqueous 1N hydrochloric acid and water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 2.5 grams of 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-butene.

reactant | magnesium | 0.068 mole, 1.64 grams | [Mg] | Mg
reactant | 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene | 0.0068 mole, 3.0 grams | C1(CC1)C(=CC=CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F | C26H20F4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-butene | 2.5 grams | C1(CC1)C(C=CCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F | C26H22F4O2
